US05098920
A 542 5 g (2.4 mol) sample of methyl 2-(p-tolyl)benzoate (Chemo Dynamics Inc.) was dissolved in 5.5 L of ethanol and treated with 3 L (7.5 mol) of 2.5 N sodium hydroxide. The reaction was stirred overnight at ambient temperature and treated with an additional 480 ml (6.0 mol) of sodium hydroxide; stirring was continued for an additional 24 h and the ethanol removed in vacuo. The remaining solution was cooled in ice and acidified to pH 1 with hydrochloric acid which caused the product to precipitate; filtration and drying in vacuo gave 510 g (100%) of crude 2-(p-tolyl)benzoic acid: mp 145.0°-147.5° C.; NMR (CDCl3) δ 2.40 (s, 3H), 7.17-7.28 (m, 4H), 7.35-7.45 (m, 2H), 7.51-7.59 (m, 1H), 7.90-7.97 (m, 1H). The crude acid was suspended in 1 L of toluene and slowly treated with 400 g (3.15 mol) of oxalyl chloride under nitrogen. The reaction was allowed to stir at ambient temperature for 4.5 h and concentrated in vacuo to remove excess oxalyl chloride. The residue was redissolved in 2 L of toluene and treated with 92.8 g (5.46 mol) of anhydrous ammonia. The reaction was filtered and the filtrate concentrated in vacuo producing 424 g (84%) of crude 2-(p-tolyl)benzamide: mp 128°-130° C.; NMR (CDCl3) δ 2.40 (s, 3H), 5.28 (br s, 1H), 5.77 (br s, 1H), 7.21-7.53 (m, 7H), 7.76-7.83 (m, 1H). The crude amide was treated with 1420 ml (19.5 mol) of thionyl chloride at reflux for 3.5 h. The reaction was filtered and the thionyl chloride removed in vacuo. The residue was dissolved in 800 ml of toluene and reconcentrated in vacuo. On standing overnight, the residue crystallized. The crystals were collected and washed with hexane to give 296 g (64%) of 2-(p-tolyl)benzonitrile: mp 50.5°-52.0° C.; NMR (CDCl3) δ 2.42 (s, 3H), 7.22-7.34 (m, 2H), 7.37-7.52 (m, 3H), 7.58-7.66 (m, 1H), 7.72- 7.78 (m, 1H). A 286 g (1.48 mol) sample of the crude nitrile was dissolved in 1630 mL to toluene and treated with 377 g (1.8 mol) of trimethyltinazide at reflux for 24 h. The reaction was cooled; filtration gave 600 g of crude N-trimethylstannyl-5-[2-(4'-methylbiphen-2-yl]tetrazole: mp 271°-272° C. (dec.); NMR (DMSO-d6) δ 0.36 (br t, J=34 Hz, 9H), 2.24 (s, 3H), 6.89-7.06 (m, 4H), 7.35-7.55 (m, 4H). The crude N-trimethylstannyl tetrazole was suspended in 4270 mL of toluene and 287 mL of anhydrous tetrahydrofuran (THF) and treated with 63.4 g (173 mol) of anhydrous hydrogen chloride at ambient temperature under nitrogen with stirring. The reaction was allowed to stand overnight and filtered; recrystallization from toluene gave 217 g (62%) of 5-[2-(4'methylbiphen-2-yl)] tetrazole as a solid: mp 149°-152° C.; NMR (DMSO-d6) δ 2.28 (s, 3H), 6.94-7.02 (m, 2H), 7.08-7.15 (m, 2H), 7.50-7.59 (m, 2H), 7.62-7.72 (m, 2H). A 200 g (0.85 mol) sample of the tetrazole was suspended in 3.3 L of dichloromethane and treated with 262 g (0.91 mol) of triphenylmethyl chloride and 141 mL (1.0 mol) of anhydrous triethylamine. The reaction was stirred at reflux for 3 h under nitrogen, washed with water, dried (MgSO4), and concentrated in vacuo. Recrystallization gave 338 g (83%) of N-triphenylmethyl-5-[2-(4'-methylbiphen-2-yl)]tetrazole as a colorless solid: mp 170°-173° C.; NMR (CDCl3) δ 2.27 (s, 3H), 6.86-6.96 (m, 8H), 6.98-7.04 (m, 2H), 7.09-7.52 (m, 12H), 7.86-7.94 (m, 1H). The N-triphenylmethyl tetrazole was dissolved in 4260 mL of carbon tetrachloride and treated with 126.4 g (0.71 mol) of N-bromosuccinimide (NBS) and 11.9 g (49 mmol) of benzoyl peroxide at reflux for 3.5 h. The reaction was filtered and the solvent removed in vacuo. Recrystallization from toluene gave 277 g (59%) of N-triphenylmethyl-5-[2-(4'-bromomethylbiphen-2-yl)]tetrazole as a colorless solid: mp 140°-142° C.; NMR (CDCl3) δ 4.39 (s, 2H), 6.85-6.95 (m, 7H), 7.06-7.15 (m, 4H), 7.22-7.43 (m, 9H), 7.45-7.55 (m, 2H), 7.94-8.01 (m, 1H). NMR indicated that this material was only 85% pure; it contained 7% of corresponding dibromo-compound (δ 6.50) and 8% of starting material (δ 2.27 ); however, no further attempts at purification were made and this mixture was used in all subsequent alkylation reactions.

reactant | oxalyl chloride | 3.15 mol, 400 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | 5.46 mol, 92.8 g | N | H3N
reactant | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 2-(p-tolyl)benzamide | 424 g, 84% | C1(=CC=C(C=C1)C1=C(C(=O)N)C=CC=C1)C | C14H13NO
